US05468587
4-methoxy-n-Decylsulfamoylbenzene:
Commercially available 4-methoxybenzenesulfonylchloride (Aldrich; 25 g, 0.12 moles) is added portionwise to a solution of decylamine (Kodak; 19 g, 0.12 moles) in pyridine (75 mL). The heterogeneous reaction mixture is stirred overnight at room temperature and poured into dilute HCl/ice water (1.5 L). After stirring 30 minutes, the light orange solid is isolated by filtration, washed with water and air dried. Recrystallization from ethanol (Norite) affords 26.3 g (66% yield) of the desired product as golden platelets, mp 53°-54.5° C. NMR (CDCl3) d 0.8-0.95 (t, 3H's); 1.1-1.6 (m, 16H's); 2.8-3.0 (t, 2H's); 3.9 (s, 3H's); 6.95-7.0 (d, 2H's); 7.75-7.85 (d, 2H's).

reactant | 4-methoxybenzenesulfonylchloride | 0.12 moles, 25 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | decylamine | 0.12 moles, 19 g | C(CCCCCCCCC)N | C10H23N
solvent | pyridine | 75 mL | N1=CC=CC=C1 | C5H5N
product | 4-methoxy-n-Decylsulfamoylbenzene | 26.3 g, 66% yield | COC1=CC=C(C=C1)S(NCCCCCCCCCC)(=O)=O | C17H29NO3S
